US07846964B2
A mixture of 3-{4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propenyl]-phenyl}-propionic acid (121 mg, 0.32 mmol), Pd/C (40 mg, 10% Pd) in ethanol (8 mL) is stirred at rt under 1 bar H2. The reaction mixture is filtered, the filtrate is evaporated to give 3-{4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propyl]-phenyl}-propionic acid (120 mg) as a pale yellow oil; LC-MS: tR=1.07 min, [M+1]+=383.17.

reactant | 3-{4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propenyl]-phenyl}-propionic acid | 0.32 mmol, 121 mg | O=C(C=CC1=CC=C(C=C1)CCC(=O)O)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C23H24O3S
solvent | ethanol | 8 mL | C(C)O | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 3-{4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propyl]-phenyl}-propionic acid | 120 mg | O=C(CCC1=CC=C(C=C1)CCC(=O)O)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C23H26O3S
